US05679710
Preparation of 2-methacryloyloxyethyl(2,3,5-triiodobenzoate)
2,3,5-triiodobenzoic acid (25 g), 2-hydroxyethyl methacrylate (7.2 g), 1,3-dicyclohexylcarbodiimide (11.5 g) and 4-pyrrilidinopyridine (0.75 g) were stirred in ether suspension (250 ml) at room temperature for 24 hr. The solid was filtered off and the residue washed with fresh ether. The ether solution was extracted with dilute HCl (0.2M) and then with saturated sodium bicarbonate solution. The organic phase was dried (MgSO4) and the solvent removed under reduced pressure. The residue (21.1 g) was recrystallised from ethyl acetate to give a pure material as white crystals m.pt.94° C.

reactant | 2,3,5-triiodobenzoic acid | 25 g | IC1=C(C(=O)O)C=C(C=C1I)I | C7H3I3O2
reactant | 2-hydroxyethyl methacrylate | 7.2 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | 1,3-dicyclohexylcarbodiimide | 11.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-methacryloyloxyethyl(2,3,5-triiodobenzoate) | C(C(=C)C)(=O)OCCOC(C1=C(C(=CC(=C1)I)I)I)=O | C13H11I3O4
